US07098215B2
Synthesis of Nα-Fmoc-Nδ-Cbz-L-ornithine 2-(3-indolyl)ethylamide (Compound IX-2)
Commercially available Nα-Fmoc-Nδ-Cbz-L-ornithine (528.0 mg) was dissolved in DMF (10.6 ml), and HOBt (235 mg), WSCI hydrochloride (334 mg), and tryptamine (0.165 ml) were added to the solution. The mixture was stirred for 16 hours at room temperature. After the reaction, the solvent was removed by distillation. The residue was dissolved in chloroform and extracted with 1 mol/l aqueous solution of hydrochloric acid. The organic layer was washed with a saturated aqueous solution of sodium bicarbonate. The solvent was removed by distillation and the residue was purified by silica gel column chromatography (50 g, chloroform/ethyl acetate=1/1) to obtain the title compound (690 mg) as a white solid.

reactant | Nα-Fmoc-Nδ-Cbz-L-ornithine | 528.0 mg | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N[C@@H](CCCNC(=O)OCC1=CC=CC=C1)C(=O)O | C28H28N2O6
reactant | HOBt | 235 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSCI hydrochloride | 334 mg | CCN=C=NCCCN(C)C.Cl
reactant | tryptamine | 0.165 ml | NCCC1=CNC2=CC=CC=C12 | C10H12N2
solvent | DMF | 10.6 ml | CN(C)C=O | C3H7NO
product | Nα-Fmoc-Nδ-Cbz-L-ornithine 2-(3-indolyl)ethylamide | 690 mg | N1C=C(C2=CC=CC=C12)CCNC([C@@H](NC(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12)CCCNC(=O)OCC1=CC=CC=C1)=O | C38H38N4O5
